US06747023B1
2-[N-[(5-Acetoxy-4-oxo-4H-pyran-2-yl)methyl]carbamoyl]-1-(tert-butoxycarbonyl)-4-[(5-chloroindol-2-yl)sulfonyl]piperazine
In acetonitrile (10 ml) was dissolved 1-(tert-butoxycarbonyl)-4-[(5-chloroindol-2-yl)sulfonyl]-2-[N-[(5-hydroxy-4-oxo-4H-pyran-2-yl)methyl]carbamoyl]piperazine (411 mg), followed by the addition of acetic anhydride (0.075 ml) and triethylamine (0.11 ml). The resulting mixture was stirred at room temperature for 15 minutes. The reaction mixture was concentrated under reduced pressure. Methylene chloride was added to the residue. The resulting mixture was washed successively with 0.2N hydrochloric acid, a saturated aqueous solution of sodium bicarbonate and saturated aqueous NaCl solution. The organic layer was then dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (methylene chloride:methanol=50:5), whereby the title compound (256 mg) was obtained as a colorless foam.

reactant | 1-(tert-butoxycarbonyl)-4-[(5-chloroindol-2-yl)sulfonyl]-2-[N-[(5-hydroxy-4-oxo-4H-pyran-2-yl)methyl]carbamoyl]piperazine | 411 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C=1NC2=CC=C(C=C2C1)Cl)C(NCC=1OC=C(C(C1)=O)O)=O | C24H27ClN4O8S
reactant | acetic anhydride | 0.075 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.11 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-[N-[(5-Acetoxy-4-oxo-4H-pyran-2-yl)methyl]carbamoyl]-1-(tert-butoxycarbonyl)-4-[(5-chloroindol-2-yl)sulfonyl]piperazine | C(C)(=O)OC=1C(C=C(OC1)CNC(=O)C1N(CCN(C1)S(=O)(=O)C=1NC2=CC=C(C=C2C1)Cl)C(=O)OC(C)(C)C)=O | C26H29ClN4O9S
